US04287081
A 3-neck reaction vessel is charged with 100 ml benzene and 50 grams of 25% ethyl aluminum dichloride in benzene. A solution containing 320 grams myrcene (85% pure), 170 grams 2-methyl-2-butenal, and 200 ml benzene is fed in at 40°-50° C. over a 1 hour period. The temperature is then raised to 60° C. and held there for 1/2 hour. An additional 10 grams ethyl aluminum dichloride solution mixed with 20 ml benzene is added and heating is continued for an additional 1/2 hour. The mixture is then cooled, water is added and the layers are separated. The organic layer is washed with water and distilled without fractionation to free the material of residue. Redistillation through an 18" Goodloe packed column provides 199 grams of 1,6-dimethyl-4-(4-methyl-3-pentenyl)-3-cylohexene-1-carboxaldehyde (b.p. 105° C., 0.9 mm).

reactant | ethyl aluminum dichloride | 50 grams | [Cl-].[Cl-].C(C)[Al+2]
reactant | myrcene | 320 grams | CC(=CCCC(=C)C=C)C | C10H16
reactant | 2-methyl-2-butenal | 170 grams | CC(C=O)=CC | C5H8O
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | ethyl aluminum dichloride | 10 grams | [Cl-].[Cl-].C(C)[Al+2]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,6-dimethyl-4-(4-methyl-3-pentenyl)-3-cylohexene-1-carboxaldehyde | 199 grams | CC1(CC=C(CC1C)CCC=C(C)C)C=O | C15H24O
